US09226922B2
(3S,4R)-1-Methyl-4-phenylpyrrolidin-3-amine hydrochloride (556 mg, 2.231 mmol) was dissolved in HCl (2 N, 4 mL) and potassium cyanate (905 mg, 11.16 mmol) was added. The reaction mixture was stirred at 80° C. for 3 h. The reaction was quenched with sat. sodium bicarbonate and extracted with EtOAc followed by 3:1 chloroform/IPA. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to give 1-((3S,4R)-1-methyl-4-phenylpyrrolidin-3-yl)urea, which was carried onto the next step without further purification. MS ESI calc'd. For C12H17N3O [M+1]+ 220. found 220.

reactant | (3S,4R)-1-Methyl-4-phenylpyrrolidin-3-amine hydrochloride | 2.231 mmol, 556 mg | Cl.CN1C[C@H]([C@@H](C1)C1=CC=CC=C1)N
reactant | potassium cyanate | 11.16 mmol, 905 mg | [O-]C#N.[K+]
solvent | HCl | 2 N, 4 mL | Cl | ClH
product | 1-((3S,4R)-1-methyl-4-phenylpyrrolidin-3-yl)urea | CN1C[C@H]([C@@H](C1)C1=CC=CC=C1)NC(=O)N | C12H17N3O
